US08222424B2
[2-(4-Bromo-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane
2-(4-Bromo-phenoxy)-ethanol (5 g, 23 mmol) is dissolved in dichloromethane (40 mL). Triethylamine (2.8 g, 28 mmol) and 4-dimethylaminopyridine (140 mg, 1.15 mmol) were then added followed by tert-butyldimethylsilyl chloride (3.65 g, 24.3 mmol) as a solution in dichloromethane (10 mL). The reaction is allowed to stir at ambient temperature for 18 hours. The reaction mixture is washed with 10% aqueous citric acid, the organic layer is separated and concentrated in vacuo to afford 7.5 g (98% yield) of the title compound. 1H NMR (CDCl3) δ 0.05 (s, 6H), 0.85 (s, 9H), 3.85-3.94 (m, 4H), 6.72 (d, 2H, J=6.90 Hz), 7.28 (d, 2H, J=6.90 Hz).

reactant | 2-(4-Bromo-phenoxy)-ethanol | 23 mmol, 5 g | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
reactant | Triethylamine | 28 mmol, 2.8 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 24.3 mmol, 3.65 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.15 mmol, 140 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [2-(4-Bromo-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane | 7.5 g, 98% yield | BrC1=CC=C(OCCO[Si](C)(C)C(C)(C)C)C=C1 | C14H23BrO2Si
